US08133911B2
Dimethyl-2-oxopropylphosphonate (0.25 ml, 1.2 mmol) was added to a suspension of K2CO3 (0.41 g, 3.0 mmol) and p-toluenesulfonylazide (0.24 g, 1.2 mmol) in CH3CN (15 ml). After stirring for 2 h a solution of (4R)-2-methyl-3-oxo-4-(4-{[4-(trifluoromethyl)-1,3-thiazol-2-yl]amino}phenyl)pentanal (0.34 g, 1.0 mmol) in CH3OH (5 ml) was added and the resulting mixture was stirred for 8 h at room temperature. The solvents were removed in vacuo and the residue diluted with Et2O (10 ml), washed with water (2×10 ml) and brine (2×5 ml) and dried over anhydrous Na2SO4. After solvent evaporation the crude was pulped in n-pentane to give 2-{4-[(1R)-1-methylprop-2-yn-1-yl]benzyl}-4-(trifluoromethyl)-1,3-thiazole (0.22 g, 0.745 mmol) as a colourless oil (75%). 1H-NMR (CDCl3): δ 8.68 (bs, 1H, NH); 7.85 (d, 2H, J=7 Hz); 7.55 (d, 2H, J=7 Hz); 7.15 (s, 1H), 3.50 (q, 1H, J=7 Hz); 3.25 (s, 1H), 1.50 (d, 3H, J=7 Hz).

reactant | Dimethyl-2-oxopropylphosphonate | 1.2 mmol, 0.25 ml | COP(OC)(=O)CC(C)=O | C5H11O4P
reactant | K2CO3 | 3.0 mmol, 0.41 g | C(=O)([O-])[O-].[K+].[K+]
reactant | p-toluenesulfonylazide | 1.2 mmol, 0.24 g | C1(=CC=C(C=C1)S(=O)(=O)N=[N+]=[N-])C | C7H7N3O2S
reactant | (4R)-2-methyl-3-oxo-4-(4-{[4-(trifluoromethyl)-1,3-thiazol-2-yl]amino}phenyl)pentanal | 1.0 mmol, 0.34 g | CC(C=O)C([C@H](C)C1=CC=C(C=C1)NC=1SC=C(N1)C(F)(F)F)=O | C16H15F3N2O2S
reactant | CH3CN | 15 ml | CC#N | C2H3N
solvent | CH3OH | 5 ml | CO | CH4O
product | 2-{4-[(1R)-1-methylprop-2-yn-1-yl]benzyl}-4-(trifluoromethyl)-1,3-thiazole | 0.745 mmol, 0.22 g, 75% | C[C@H](C#C)C1=CC=C(CC=2SC=C(N2)C(F)(F)F)C=C1 | C15H12F3NS
